US05219862
6-cyclopropylmethyl-2-formyl-8beta-ergoline-carboxylic acid methyl ester
As described above, the aldehyde is prepared from the 6-cyclopropylmethyl-2-morpholinomethyl-8beta-ergoline-carboxylic acid methyl ester by oxidation with tert-butylhypochlorite. All the ergoline-aldehydes alkylated in 6-position are used as crude products in the Wittig reaction.

reactant | 6-cyclopropylmethyl-2-morpholinomethyl-8beta-ergoline-carboxylic acid methyl ester | COC(=O)[C@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)CN3CCOCC3)CC3CC3 | C25H33N3O3
reactant | tert-butylhypochlorite | C(C)(C)(C)OCl | C4H9ClO
product | 6-cyclopropylmethyl-2-formyl-8beta-ergoline-carboxylic acid methyl ester | COC(=O)[C@H]1CN([C@@H]2CC3=C(NC4=CC=CC([C@H]2C1)=C34)C=O)CC3CC3 | C21H24N2O3
